US08802659B2
2-bromo-6-(trans-4-tert-butylcyclohexyloxy)naphthalene (2.249 g, 6.25 mmol, 1.0 eq.) was dissolved in THF (10 mL) under nitrogen atmosphere. Then the mixture was cooled down to −78° C. and a solution of n-BuLi in THF (2.5 M, 7.5 mL, 18.8 mmol, 3.0 eq.) was added to the mixture dropwise. The mixture was stirred at −78° C. for 15 min. Then DMF (2.4 mL, 31.2 mmol, 5.0 eq.) was added to the mixture and stirred at −78° C. for 1 h. When the reaction completed, 1 M HCl was added to adjust the pH to 6. The mixture was extracted with EtOAc and the organic layer was concentrated and purified by silica gel chromatography using petroleum ether/ethyl acetate (10/1) as eluent to give 6-(trans-4-tert-butylcyclohexyloxy)-2-naphthaldehyde as a white solid (1.16 g, 60%). EDI-MS: 311.1 (M+H)+. 1H NMR (400 MHz, CDCl3) δ 10.08 (s, 1H), 8.24 (s, 1H), 7.92-7.87 (m, 2H), 7.77 (d, 1H), 7.22-7.19 (m, 2H), 4.42-4.30 (m, 1H), 2.30-2.28 (m, 2H), 1.93-1.90 (m, 2H), 1.48-1.11 (m, 5H), 0.82 (s, 9H).

reactant | 2-bromo-6-(trans-4-tert-butylcyclohexyloxy)naphthalene | 6.25 mmol, 2.249 g, 1.0 eq. | BrC1=CC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C | C20H25BrO
reactant | n-BuLi | [Li]CCCC
reactant | DMF | 31.2 mmol, 2.4 mL, 5.0 eq. | CN(C)C=O | C3H7NO
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 18.8 mmol, 2.5 M, 7.5 mL, 3.0 eq. | C1CCOC1 | C4H8O
product | 6-(trans-4-tert-butylcyclohexyloxy)-2-naphthaldehyde | 1.16 g, 60% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
